US04423213
To a suspension of 7-salicylideneamino-3-hydroxymethyl-3-cephem-4-carboxylic acid dicyclohexylamine salt (3 g) in ethyl acetate (60 ml) was added dropwise an ethyl acetate solution of p-toluenesulfonic acid (1.1 g) with stirring, and the reaction mixture was stirred for an hour at ambient temperature. After the precipitate was filtered off, the filtrate was treated with a solution of excess diphenyldiazomethane in ethyl acetate for an hour. The solvent was distilled off, and the residue was pulverized with diisopropyl ether, collected by filtration and dried to give benzhydryl 7-salicylideneamino-3-hydroxymethyl-3-cephem-4-carboxylate (2.66 g).

reactant | 7-salicylideneamino-3-hydroxymethyl-3-cephem-4-carboxylic acid dicyclohexylamine salt | 3 g | C1(CCCCC1)NC1CCCCC1.C(C=1C(O)=CC=CC1)=NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O
reactant | p-toluenesulfonic acid | 1.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-salicylideneamino-3-hydroxymethyl-3-cephem-4-carboxylate | 2.66 g | C(C=1C(O)=CC=CC1)=NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O5S
